US07592373B2
4.27.a. (2-chloro-4-nitrophenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine
A solution of 12.02 g (32.45 mmol) of 2-(4-methylpiperidin-1-yl)ethylamine in 100 mL of DMF is combined with 17.94 g (64.82 mmol) of potassium carbonate and stirred for 15 minutes at ambient temperature. Then 5.81 g (32.45 mmol) of 3-chloro-4-fluoronitrobenzene are added and the reaction mixture is stirred for 18 hours. Then the reaction mixture is poured into ice water and the crystalline residue is filtered off. Yield: 8.85 g (91.6% of theory); C14H20ClN3O2 (M=297.78); calc.: molecular ion peak (M+H)+: 298/300; found: molecular ion peak (M+H)+: 298/300.

reactant | 2-(4-methylpiperidin-1-yl)ethylamine | 32.45 mmol, 12.02 g | CC1CCN(CC1)CCN | C8H18N2
reactant | potassium carbonate | 64.82 mmol, 17.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-4-fluoronitrobenzene | 32.45 mmol, 5.81 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (2-chloro-4-nitrophenyl)-[2-(4-methylpiperidin-1-yl)ethyl]amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])NCCN1CCC(CC1)C | C14H20ClN3O2
